data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_352770_1,[C:1]([C:2](/[N:8]=[C:7](/[C:5]([H:20])([H:21])[H:22])[H:13])([H:11])[H:12])([C:3]([H:14])([H:16])[H:17])([C:4]([H:15])([H:18])[H:19])[N:6]([H:9])[H:10]>>[C:1]1([C:3]([H:14])([H:16])[H:17])([C:4]([H:15])([H:18])[H:19])[C:2]([H:11])([H:12])[N:8]1[C:7]([C:5]([H:20])([H:21])[H:22])([N:6]([H:9])[H:10])[H:13],71.28901999999954
MR_495891_1,[C:1]([C:2]([H:12])([H:13])[H:14])(/[C:3](=[N:5]\[H:8])[H:10])(/[C:4](=[N:6]/[H:9])[H:11])[H:7]>>[C:1](\[C:2]([H:12])([H:13])[H:14])(=[C:3](\[N:5](/[C:4](=[N:6]/[H:9])[H:11])[H:8])[H:10])[H:7],59.488255000045456
MR_264826_1,[C:1]([N:4]([O:8][H:9])[H:10])([C:5](=[C:6]([C:2]([H:15])([H:16])[H:20])[C:3]([H:17])([H:18])[H:19])[N:7]([H:11])[H:12])([H:13])[H:14]>>[C:1]1([H:13])([H:14])[N:4]([H:10])[C@:5]1([C:6]([C:2]([H:15])([H:16])[H:20])([C:3]([H:17])([H:18])[H:19])[O:8][H:9])[N:7]([H:11])[H:12],66.02868750001164
MR_428195_0,[C:1]([O:4][N:2](/[C:3](=[N:6]\[O:5][H:7])[H:9])[H:8])([H:10])([H:11])[H:12]>>[C:1]([O:4][N:6](/[C:3](=[N:2]/[H:8])[H:9])[O:5][H:7])([H:10])([H:11])[H:12],67.7618424999875
MR_114898_0,[C:1]([C:3]([H:17])([H:18])[H:19])([N:4](/[C:5]([O:7][H:9])=[N:8]/[C:2]([H:14])([H:15])[H:16])[N:6]([H:10])[H:11])([H:12])[H:13]>>[C:1]([C:3]([H:17])([H:18])[H:19])([N:8]([C:2]([H:14])([H:15])[H:16])/[C:5](=[N:4]/[N:6]([H:10])[H:11])[O:7][H:9])([H:12])[H:13],62.90562000001373
MR_116895_1,[C:1]([C:4](=[C:5]([C:2]([H:14])([H:15])[H:19])[C:3]([H:16])([H:17])[H:18])[N:6]([H:8])[H:9])([N:7]([H:10])[H:11])([H:12])[H:13]>>[C:1](=[C:4]([C:5]([C:2]([H:14])([H:15])[H:19])([C:3]([H:16])([H:17])[H:18])[N:7]([H:10])[H:11])[N:6]([H:8])[H:9])([H:12])[H:13],73.3076875000036
MR_593663_1,[C:1](/[N:9]=[C:4](/[N:3]([C:5]([C:2]([H:16])([H:17])[H:18])=[C:7]([H:19])[H:20])[O:8][H:10])[N:6]([H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1]([N:9](/[C:4](=[N:3]\[O:8][H:10])[N:6]([H:11])[H:12])[C:5]([C:2]([H:16])([H:17])[H:18])=[C:7]([H:19])[H:20])([H:13])([H:14])[H:15],49.96217749998408
MR_580949_0,[C:1](/[C:3]([C:2](=[C:5]([H:14])[H:15])[O:7][C:4](=[C:6]([H:16])[H:17])[H:10])=[N:8]\[H:9])([H:11])([H:12])[H:13]>>[C:1](/[C:3]([C:6]([C@@:4]1([H:10])[C:2](=[C:5]([H:14])[H:15])[O:7]1)([H:16])[H:17])=[N:8]\[H:9])([H:11])([H:12])[H:13],71.33294499999565
MR_128110_1,[C:1]([N:2]([C:3]1([H:9])/[C:4](=[N:6]\[H:8])[C:5]1([H:13])[H:14])[H:7])([H:10])([H:11])[H:12]>>[C:1]([N:2]([C:3](/[C:4](=[N:6]\[H:8])[H:9])=[C:5]([H:13])[H:14])[H:7])([H:10])([H:11])[H:12],68.52048999999823
MR_248435_0,[C:1](/[N:7]=[C:6](\[C:3]([H:16])([H:17])[H:18])[N:4]([C:5]([C:2]([H:13])([H:14])[H:15])=[O:8])[H:9])([H:10])([H:11])[H:12]>>[C:1]([N:7]([C:5]([C:2]([H:13])([H:14])[H:15])=[O:8])/[C:6]([C:3]([H:16])([H:17])[H:18])=[N:4]\[H:9])([H:10])([H:11])[H:12],36.92523749997648
MR_290098_1,[C:1](/[C:4](=[C:3](/[N:6]([H:10])[H:11])[O:8][H:9])[C:5]([C:2]([H:15])([H:16])[H:17])=[C:7]([H:18])[H:19])([H:12])([H:13])[H:14]>>[C:1]([C:4]1=[C:5]([C:2]([H:15])([H:16])[H:17])[C:7]([H:18])([H:19])[C@@:3]1([N:6]([H:10])[H:11])[O:8][H:9])([H:12])([H:13])[H:14],41.90821500002258
MR_138612_2,[C:1](\[C:3]([H:17])([H:18])[H:19])(=[C:4](/[O:7][H:10])[N:8]([C:2]([H:14])([H:15])[H:16])[C:5]([N:6]([H:12])[H:13])=[O:9])[H:11]>>[C:1]([C:3]([H:17])([H:18])[H:19])(/[C:4]([O:7][H:10])=[N:8]/[C:2]([H:14])([H:15])[H:16])([C:5]([N:6]([H:12])[H:13])=[O:9])[H:11],55.4082500000024
MR_488771_1,[C:1]([N:4]([C:2]([H:14])([H:15])[H:16])/[C:5]([C:3]([H:17])([H:18])[H:19])=[N:8]/[O:7][H:9])([N:6]([H:10])[H:11])([H:12])[H:13]>>[C:1]([N:6]([H:10])[H:11])([N:8](/[C:5]([C:3]([H:17])([H:18])[H:19])=[N:4]\[C:2]([H:14])([H:15])[H:16])[O:7][H:9])([H:12])[H:13],55.8801299999881
MR_219158_0,[C:1]([C:4]([C:3]([H:15])([H:16])[H:17])([C:5](=[C:6]([H:18])[H:19])[H:11])[N:8]([C:2]([H:12])([H:13])[H:14])[H:9])(=[O:7])[H:10]>>[C:1](/[C:4]([C:3]([H:15])([H:16])[H:17])=[N:8]/[C:2]([H:12])([H:13])[H:14])([C:5](=[C:6]([H:18])[H:19])[H:11])([O:7][H:9])[H:10],32.92178750002549
MR_382855_1,[C:1]1([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:3]([O:10][H:11])([H:12])[C:8]1([C:9](=[C:2]([C:6]([H:21])([H:22])[H:23])[C:7]([H:24])([H:25])[H:26])[H:14])[H:13]>>[C:1]1([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:3]([O:10][H:11])([H:12])[C:2]([C:6]([H:21])([H:22])[H:23])([C:7]([H:24])([H:25])[H:26])[C:9]([H:14])=[C:8]1[H:13],59.49892250001852
MR_359879_0,[C:1]([C:3]1=[C:4]([H:10])[C:2]2(/[C:5](=[N:8]\[H:9])[H:11])[O:6][N:7]21)([H:12])([H:13])[H:14]>>[C:1]([c:3]1[c:4]([H:10])[c:2](/[C:5](=[N:8]\[H:9])[H:11])[o:6][n:7]1)([H:12])([H:13])[H:14],21.85268750000759
MR_593257_0,[N:1]([N:2]([H:8])[H:9])([C:4](=[C:5]([H:13])[H:14])[H:12])/[N:6]=[N:7]\[N:3]([H:10])[H:11]>>[N:1](\[N:2]([H:8])[H:9])=[N:6]/[N:7]([N:3]([H:10])[H:11])[C:4](=[C:5]([H:13])[H:14])[H:12],60.01410000000192
MR_556794_0,[C:1]([C:2]([H:8])([H:9])[H:10])([O:3][O:4][H:5])([H:6])[H:7]>>[C:1]([O:3][C:2]([H:8])([H:9])[H:10])([O:4][H:5])([H:6])[H:7],70.92507000000886
